US06399614B1
Preparation of 1-(2-chloroethyl)-4-(4-indolyl)piperazine (Compound 76B)
8.3 mL of 1-bromo-2-chloroethane, 1.2 g of 1-(4-indolyl)piperazine and 1.2 mL of DIPEA was stirred at 60° C. for 3 h under nitrogen atmosphere. To the solution, cooled at r.t., was added 30 mL of H2O. The mixture was then extracted with CH2Cl2-MeOH 7:3 (3×15 mL). The organic layer, dried on an. Na2SO4, was evaporated to dryness. The crude was purified by flash chromatography (CH2Cl2-MeOH 98:2) to give 0.57 g (36%) of the title compound.

reactant | 1-bromo-2-chloroethane | 8.3 mL | BrCCCl | C2H4BrCl
reactant | 1-(4-indolyl)piperazine | 1.2 g | N1C=CC2=C(C=CC=C12)N1CCNCC1 | C12H15N3
reactant | DIPEA | 1.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | H2O | 30 mL | O | H2O
product | 1-(2-chloroethyl)-4-(4-indolyl)piperazine | 0.57 g, 36% | ClCCN1CCN(CC1)C1=C2C=CNC2=CC=C1 | C14H18ClN3
